US05607956
1-(4,5-Dimethyl-2-thiazolyl)-1-(2-thienyl)ethanol
n-Butyllithium (2.5M solution in hexanes, 9.7 ml) was added dropwise to a stirred solution of 4,5-dimethylthiazole (2.5 g) in dry diethyl ether (30 ml) at -70° C. under an atmosphere of dry nitrogen. After 30 minutes, 2-acetylthiophene (3.1 g) in diethyl ether (20 ml) was added dropwise. After a further 1 hour the mixture was allowed to warm to room temperature and was then worked up in the normal fashion to yield the title compound.

reactant | n-Butyllithium | 2.5M, 9.7 ml | C(CCC)[Li]
reactant | 4,5-dimethylthiazole | 2.5 g | CC=1N=CSC1C | C5H7NS
reactant | 2-acetylthiophene | 3.1 g | C(C)(=O)C=1SC=CC1 | C6H6OS
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | 1-(4,5-Dimethyl-2-thiazolyl)-1-(2-thienyl)ethanol | CC=1N=C(SC1C)C(C)(O)C=1SC=CC1 | C11H13NOS2
